US07601722B2
In an analogous manner to general procedure V, 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.18 g, 0.43 mmol) was treated with 33% dimethylamine in ethanol to give (2E)-4-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,N-dimethylbut-2-en-1-amine which was treated with 1N hydrochloric acid in ether to give its hydrochloride salt as a white solid (0.018 g, 10%). MS (ES) m/z 379.8 ([M+H]+).

reactant | 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.43 mmol, 0.18 g | BrC/C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)F)F)(=O)=O | C16H13BrF2N2O2S
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | (2E)-4-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,N-dimethylbut-2-en-1-amine | FC1=C(C=CC(=C1)F)N1S(N(C2=C1C=CC=C2)C/C=C/CN(C)C)(=O)=O | C18H19F2N3O2S
